US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-methyl-3-chloroaniline to yield 2-[2-methyl-3-chlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-methyl-3-chloroaniline | CC1=C(N)C=CC=C1Cl | C7H8ClN
product | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
